US06022883
1.0 g of 3-methylsulfonyl-4-(3-pyridyloxy)-6-methylbenzoic acid [obtainable by reacting 3-methylsulfonyl-4-chloro-6-methylbenzoic acid with 3-hydroxypyridine] is dissolved in 15 ml of 1-methylpyrrolidone, and 0.67 g of 1-methyl-2-chloropyridinium chloride is added to this solution, which is stirred for 15 min. 0.9 g of guanidinium chloride and 2.6 ml of N-ethyldiisopropylamine are then added, and the mixture is stirred at room temperature for one hour. Following customary working-up, N-diaminomethylene-3-methylsulfonyl-4-(3-pyridyloxy)-6-methylbenzamide is obtained, m.p. 221-224°.

reactant | 3-methylsulfonyl-4-(3-pyridyloxy)-6-methylbenzoic acid | 1.0 g | CS(=O)(=O)C=1C=C(C(=O)O)C(=CC1OC=1C=NC=CC1)C | C14H13NO5S
reactant | 1-methyl-2-chloropyridinium chloride | 0.67 g | [Cl-].C[N+]1=C(C=CC=C1)Cl
reactant | guanidinium chloride | 0.9 g | [Cl-].NC(=[NH2+])N
reactant | N-ethyldiisopropylamine | 2.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | N-diaminomethylene-3-methylsulfonyl-4-(3-pyridyloxy)-6-methylbenzamide | NC(=NC(C1=CC(=C(C=C1C)OC=1C=NC=CC1)S(=O)(=O)C)=O)N | C15H16N4O4S
